US06080754
2-(4-Benzyloxyphenyl)-1-ethyl-4-hydroxymethylpyrrolo[2,1,5-cd]indolizine was alkylated, using 6-bromohexanoic acid dimethylamide as the alkylating agent, by the general synthetic principle outlined in Example 5, to afford 6-[2-(4-benzyloxyphenyl)-1-ethylpyrrolo[2,1,5-cd]indolizin-4-ylmethoxy]hexanoic acid dimethylamide as a yellow oil in 31% yield. 1H-NMR (CDCl3, 300 MHz) δ: 1.37-1.50 (m, 5H); 160-1.71 (m, 4H); 2.28 (t, 2H); 2.91 (s, 3H); 2.93 (s, 3H); 3.24 (q, 2H); 3.56 (t, 2H); 5.01 (s, 2H); 5.17 (s, 2H); 7.15 (d, 2H); 7.32-7.54 (m, 6H); 7.63 (t, 1H); 7.73 (d, 2H); 7.90 (d, 1H); 7.99 (d, 1H).

reactant | 2-(4-Benzyloxyphenyl)-1-ethyl-4-hydroxymethylpyrrolo[2,1,5-cd]indolizine | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=C(C2=CC=CC=3N2C1=CC3CO)CC | C26H23NO2
reactant | 6-bromohexanoic acid dimethylamide | CN(C(CCCCCBr)=O)C | C8H16BrNO
product | 6-[2-(4-benzyloxyphenyl)-1-ethylpyrrolo[2,1,5-cd]indolizin-4-ylmethoxy]hexanoic acid dimethylamide | 31% yield | CN(C(CCCCCOCC=1C=C2C(=C(C3=CC=CC1N23)CC)C2=CC=C(C=C2)OCC2=CC=CC=C2)=O)C | C34H38N2O3
